US06664269B2
A mixture of homophthalic acid (200 g, 1.09 mol) and urea (80 g, 1.31 mol) was ground to a fine powder then heated at 175-185° C. until it had melted then resolidified. The mixture was cooled to ambient temperature, methanol (500 ml) was added, then the mixture was heated under reflux for 20 minutes, filtered, and allowed to cool to ambient temperature. The resulting solid was collected by filtration, washed with methanol and dried in vacuo to give homophthalimide (60 g, 34%) as a solid; m.pt. 235-240° C.; δH 4.0 (2H, s), 7.3-7.75 (3H, m), 8.10 (1H, d), 11.20 (1H, br s).

reactant | homophthalic acid | 1.09 mol, 200 g | C(CC=1C(C(=O)O)=CC=CC1)(=O)O | C9H8O4
reactant | urea | 1.31 mol, 80 g | NC(=O)N | CH4N2O
solvent | methanol | 500 ml | CO | CH4O
product | homophthalimide | 60 g, 34% | C1(CC=2C(C(N1)=O)=CC=CC2)=O | C9H7NO2
